Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[C:1](=[O:2])[c:3]1[cH:4][c:5]([N+:6](=[O:7])[O-:8])[cH:9][c:10]([N+:11](=[O:12])[O-:13])[cH:14]1.[CH3:15][NH:16][CH2:17][C@H:18]([OH:19])[C@@H:20]([OH:21])[C@H:22]([OH:23])[C@H:24]([OH:25])[CH2:26][OH:27]>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([N+:6](=[O:7])[O-:8])[cH:9][c:10]([N+:11](=[O:12])[O-:13])[cH:14]1)[N:16]([CH3:15])[CH2:17][C@H:18]([OH:19])[C@@H:20]([OH:21])[C@H:22]([OH:23])[C@H:24]([OH:25])[CH2:26][OH:27],[Cl:101][C:1](=[O:2])[c:3]1[cH:4][c:5]([N+:6](=[O:7])[OH:8])[cH:9][c:10]([N+:11](=[O:12])[OH:13])[cH:14]1.[CH3:15][NH:16][CH2:17][C@H:18]([OH:19])[C@@H:20]([OH:21])[C@H:22]([OH:23])[C@H:24]([OH:25])[CH2:26][OH:27]>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([N+:6](=[O:7])[OH:8])[cH:9][c:10]([N+:11](=[O:12])[OH:13])[cH:14]1)[N:16]([CH3:15])[CH2:17][C@H:18]([OH:19])[C@@H:20]([OH:21])[C@H:22]([OH:23])[C@H:24]([OH:25])[CH2:26][OH:27],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(16, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[N-]=[N+]=[N:1][C@@H:2]1[CH2:3][O:4][C@@H:5]1[CH2:6][O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1>>[NH2:1][C@@H:2]1[CH2:3][O:4][C@@H:5]1[CH2:6][O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1,[N-:201]=[N+:101]=[N:1][C@@H:2]1[CH2:3][O:4][C@@H:5]1[CH2:6][O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[OH2:302]>>[NH2:1][C@@H:2]1[CH2:3][O:4][C@@H:5]1[CH2:6][O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1,Staudinger,"[(301, 1), ([1, 101], 101), (201, 301), ([1, 101], [101, 201]), ([201, 301], [301, 1]), (302, 301), ([301, 1], 1), (1, 302.1), ([302.1, 302], 302), (302, [302, 301]), ([301, 1], 1), (1, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:13][cH:12][c:5](-[c:6]2[n:7][n:8][c:9]([CH3:10])[o:11]2)[cH:4][cH:3]1)=[O:14].[NH2:15][CH2:16][C:17](=[O:18])[N:19]1[CH2:20][CH2:21][CH:22]([O:23][c:24]2[cH:25][cH:26][cH:27][cH:28][c:29]2[Cl:30])[CH2:31][CH2:32]1>>[C:1]([c:2]1[cH:3][cH:4][c:5](-[c:6]2[n:7][n:8][c:9]([CH3:10])[o:11]2)[cH:12][cH:13]1)(=[O:14])[NH:15][CH2:16][C:17](=[O:18])[N:19]1[CH2:20][CH2:21][CH:22]([O:23][c:24]2[cH:25][cH:26][cH:27][cH:28][c:29]2[Cl:30])[CH2:31][CH2:32]1,[NH2:15][CH2:16][C:17](=[O:18])[N:19]1[CH2:20][CH2:21][CH:22]([O:23][c:24]2[cH:25][cH:26][cH:27][cH:28][c:29]2[Cl:30])[CH2:31][CH2:32]1.[OH:101][C:1]([c:2]1[cH:3][cH:4][c:5](-[c:6]2[n:7][n:8][c:9]([CH3:10])[o:11]2)[cH:12][cH:13]1)=[O:14].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][c:5](-[c:6]2[n:7][n:8][c:9]([CH3:10])[o:11]2)[cH:12][cH:13]1)(=[O:14])[NH:15][CH2:16][C:17](=[O:18])[N:19]1[CH2:20][CH2:21][CH:22]([O:23][c:24]2[cH:25][cH:26][cH:27][cH:28][c:29]2[Cl:30])[CH2:31][CH2:32]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (15, 1), ([1, 14], 14), (303, 15.1), ([15.1, 15], 15), (14, [14, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)O[C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[CH3:8][CH2:9][CH:10]([OH:11])[CH2:12][NH2:13]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:13][CH2:12][CH:10]([CH2:9][CH3:8])[OH:11],CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[CH3:8][CH2:9][CH:10]([OH:11])[CH2:12][NH2:13]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:13][CH2:12][CH:10]([CH2:9][CH3:8])[OH:11],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(13, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:17][C:18](=[O:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][n:25]1.[CH3:1][CH:2]([CH3:3])[CH2:4][N:5]1[C:6](=[O:7])[C:8](=[O:9])[c:10]2[cH:11][c:12]([Cl:13])[cH:14][cH:15][c:16]21>>[CH3:1][CH:2]([CH3:3])[CH2:4][N:5]1[C:6](=[O:7])[C:8]([OH:9])([CH2:17][C:18](=[O:19])[c:20]2[cH:21][cH:22][cH:23][cH:24][n:25]2)[c:10]2[cH:11][c:12]([Cl:13])[cH:14][cH:15][c:16]21,[CH3:1][CH:2]([CH3:3])[CH2:4][N:5]1[C:6](=[O:7])[C:8](=[O:9])[c:10]2[cH:11][c:12]([Cl:13])[cH:14][cH:15][c:16]21.[CH3:17][C:18](=[O:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][n:25]1.[Na+].[OH1-:301]>>[CH3:1][CH:2]([CH3:3])[CH2:4][N:5]1[C:6](=[O:7])[C:8]([OH:9])([CH2:17][C:18](=[O:19])[c:20]2[cH:21][cH:22][cH:23][cH:24][n:25]2)[c:10]2[cH:11][c:12]([Cl:13])[cH:14][cH:15][c:16]21,aldol_addition,"[(301, 17.1), ([17.1, 17], [17, 18]), ([18, 19], 19), (19, [19, 18]), ([18, 17], 8), ([8, 9], 9), (9, 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
